US05612352
A 1.3M solution of sec-butyl lithium in cyclohexane (6.6 ml) was added to a stirred solution of 4'-fluoro-4-bromobiphenyl (1.76 g) in tetrahydrofuran (35 ml) at a temperature below -75° C. and under an atmosphere of argon. The reaction mixture was stirred at -75° C. for 15 minutes. A solution of dry dimethylformamide (1.74 ml) in dry tetrahydrofuran (3.5 ml) was added to the reaction mixture whilst maintaining the temperature below -75° C. and the reaction mixture was then stirred at -75° C. for a further 30 minutes. The mixture was then allowed to warm to ambient temperature over a period of 2 hours and was then poured into saturated ammonium chloride solution (35 ml). The mixture was extracted with diethyl ether (3×35 ml), the diethyl ether extracts combined, washed with saturated brine (50 ml), dried (MgSO4) and evaporated. The residue was purified by medium pressure chromatography on silica gel using a mixture of 5% ethyl acetate/hexane as eluant to give 4'-fluoro 4-biphenylcarboxaldehyde as a colourless oil (33% yield), microanalysis, found: C, 75.1; H, 4.4%; C13H9FO. 0.5H2O requires: C, 75.0; H, 4.8%; NMR (CDCl3): 7.2 (2H, m), 7.6 (6H, m), 7.9 (2H, d) and 10.0 (1H, s), m/z 201 (M+H).

reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | 4'-fluoro-4-bromobiphenyl | 1.76 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8BrF
reactant | dimethylformamide | 1.74 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 35 ml | [Cl-].[NH4+]
solvent | cyclohexane | 6.6 ml | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | 4'-fluoro 4-biphenylcarboxaldehyde | 33% yield | FC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C13H9FO
